US04359466
2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino]-3-nitropyrrole
A solution of 2-(2-guanidino-4-thiazolylmethylthio)-ethylamine dihydrochloride (4 g, 0.013 mole) in ethanol (25 ml) was basified with a solution of sodium (0.65 g, 0.028 mole) in ethanol (20 ml). The mixture was filtered and the filtrate added to 2-methylsulphinyl-3-nitropyrrole (1.5 g, 0.0086 mole). The mixture was refluxed for 5 days, then the solvent was removed in vacuo and the residue chromatographed on a silica-gel column. The product was eluted with ethyl acetate/propan-2-ol (8:2) and recrystallised from methanol/acetone (6:4). Yield: 0.65 g, 22%. M.P. 195.5°-200° C.

reactant | 2-(2-guanidino-4-thiazolylmethylthio)-ethylamine dihydrochloride | 0.013 mole, 4 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCN
reactant | sodium | 0.028 mole, 0.65 g | [Na] | Na
reactant | 2-methylsulphinyl-3-nitropyrrole | 0.0086 mole, 1.5 g | CS(=O)C=1NC=CC1[N+](=O)[O-] | C5H6N2O3S
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino]-3-nitropyrrole | N(C(=N)N)C=1SC=C(N1)CSCCNC=1NC=CC1[N+](=O)[O-] | C11H15N7O2S2
